US06310070B1
An amidation reaction and post-treatment were carried out under the same conditions as in Example 19, using 2.65 g (9.71 mmol) of 4-amino-1-(4-t-butylbenzyl)-5-imidazolecarboxamide which was prepared in the same manner as in Example 57 and 4-(N-t-butyloxycarbonyl-N-methylamino)benzoic acid which was prepared seperately by a conventional method instead of cyclopentyl acetic acid to obtain 2.69 g of 1-(4-t-butylbenzyl)-4-(4-(N-t-butyloxycarbonyl-N-methylamino)benzoylamino)-5-imidazolecarboxamide (yield 55%).

reactant | 4-amino-1-(4-t-butylbenzyl)-5-imidazolecarboxamide | 9.71 mmol, 2.65 g | NC=1N=CN(C1C(=O)N)CC1=CC=C(C=C1)C(C)(C)C | C15H20N4O
reactant | 4-(N-t-butyloxycarbonyl-N-methylamino)benzoic acid | C(C)(C)(C)OC(=O)N(C)C1=CC=C(C(=O)O)C=C1 | C13H17NO4
reactant | cyclopentyl acetic acid | C1(CCCC1)CC(=O)O | C7H12O2
product | 1-(4-t-butylbenzyl)-4-(4-(N-t-butyloxycarbonyl-N-methylamino)benzoylamino)-5-imidazolecarboxamide | 2.69 g, yield 55% | C(C)(C)(C)C1=CC=C(CN2C=NC(=C2C(=O)N)NC(C2=CC=C(C=C2)N(C)C(=O)OC(C)(C)C)=O)C=C1 | C28H35N5O4
